US08877975B2
(a) Synthesis of 1-(3,4-dichlorophenyl)-N-cyclopropylcyclo-hexanecarboxamide
The tile compound was synthesized from 1-(3,4-dichlorophenyl)-cyclohexanecarboxylic acid (372 mg, 1.37 mmol) and cyclopropylamine using General Procedure G and was isolated in 25% yield as a white solid. HPLC Rt=10.6 min; 1H NMR (400 mHz, CDCl3) 7.45 (d, J=2.2 Hz, 1H), 7.39 (d, J=8.43 Hz, 1H), 7.23-7.21 (m, 1H), 5.49 (bs, 1H), 2.62-2.59 (m, 1H), 2.25-2.20 (m, 2H), 1.84-1.78 (m, 2H), 1.59-1.55 (m, 5H), 1.38-1.33 (m, 1H), 0.73-0.68 (m, 2H), 0.37-0.33 (m, 2H); 13C NMR (100 mHz, CDCl3) 176.0, 144.8, 133.0, 131.0, 130.8, 128.6, 126.2, 50.4, 34.9, 25.7, 23.1, 6.91; GC-MS (SCOUT) 13.5 min, M+ 311.

reactant | 1-(3,4-dichlorophenyl)-cyclohexanecarboxylic acid | 1.37 mmol, 372 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(=O)O | C13H14Cl2O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 1-(3,4-dichlorophenyl)-N-cyclopropylcyclo-hexanecarboxamide | 25% yield | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(=O)NC1CC1 | C16H19Cl2NO
